US06784137B2
A suspension of 5,6-dichloropyridine-2-carboxylic acid-N-oxide (5.0 g, 24.0 mmol) in methanol (100 mL) was saturated with HCl gas and the reaction mixture heated at 40-50° C. for one hour. The solvent was removed and the residue dissolved in diethyl ether/ethyl acetate. The organic solution was washed with water, saturated sodium bicarbonate solution, brine, dried, and concentrated to give methyl 5,6-dichloropyridine-2-carboxylate-N-oxide (4.0 g, 18.1 mmol). 1H NMR (DMSO-d6): δ 7.75 (s, 2H), 3.88 (s, 3H).

reactant | 5,6-dichloropyridine-2-carboxylic acid-N-oxide | 24.0 mmol, 5.0 g | ClC1=CC=C([N+](=C1Cl)[O-])C(=O)O | C6H3Cl2NO3
reactant | HCl | Cl | ClH
reactant | methanol | 100 mL | CO | CH4O
product | methyl 5,6-dichloropyridine-2-carboxylate-N-oxide | 18.1 mmol, 4.0 g | ClC1=CC=C([N+](=C1Cl)[O-])C(=O)OC | C7H5Cl2NO3
